US05599984
N,N'-bis(3-acetylphenyl)pentanediamide (3.66 g), aminoguanidine hydrochloride (2.75 g), and aminoguanidine dihydrochloride (0.05 g) were heated in methanol (35 mL) for 18 hr. Cooling and filtration gave 5.412 g of N,N'-bis(3-acetylphenyl)pentanediamide bis(amidinohydrazone) dihydrochloride, mp 187°-191° C.

reactant | N,N'-bis(3-acetylphenyl)pentanediamide | 3.66 g | C(C)(=O)C=1C=C(C=CC1)NC(CCCC(=O)NC1=CC(=CC=C1)C(C)=O)=O | C21H22N2O4
reactant | aminoguanidine hydrochloride | 2.75 g | C(=N)(N)NN.Cl
solvent | methanol | 35 mL | CO | CH4O
catalyst | aminoguanidine dihydrochloride | 0.05 g | Cl.Cl.NNC(=N)N
product | N,N'-bis(3-acetylphenyl)pentanediamide bis(amidinohydrazone) dihydrochloride | 5.412 g | Cl.Cl.C(N)(=N)NN=C(CCCC(NC1=CC(=CC=C1)C(C)=O)=NNC(N)=N)NC1=CC(=CC=C1)C(C)=O | InChI=1S/C23H30N10O2.2ClH/c1-14(34)16-6-3-8-18(12-16)28-20(30-32-22(24)25)10-5-11-21(31-33-23(26)27)29-19-9-4-7-17(13-19)15(2)35;;/h3-4,6-9,12-13H,5,10-11H2,1-2H3,(H,28,30)(H,29,31)(H4,24,25,32)(H4,26,27,33);2*1H
